US08309580B2
(2) methyl 5-bromo-2-(methoxymethyl)furan-3-carboxylate
To a solution of methyl 5-bromo-2-(bromomethyl)furan-3-carboxylate (3.0 g) in methanol (30 mL) was added sodium methoxide (0.8 g) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 20% ethyl acetate/hexane) to give the title compound (1.9 g, 77%) as an oil.

reactant | methyl 5-bromo-2-(bromomethyl)furan-3-carboxylate | 3.0 g | BrC1=CC(=C(O1)CBr)C(=O)OC | C7H6Br2O3
reactant | sodium methoxide | 0.8 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | methyl 5-bromo-2-(methoxymethyl)furan-3-carboxylate | 1.9 g, 77% | BrC1=CC(=C(O1)COC)C(=O)OC | C8H9BrO4
